US07345178B2
3-Nitro-5-thiazolo[5,4-c]pyridin-2-yl-benzoic acid (880 mg, 2.92 mmol) was suspended in 50 mL of anhydrous THF along with NMM (0.32 mL, 2.92 mmol). The reaction mixture was cooled in an ice bath and isobutyl chloroformate (0.38 mL, 2.92 mmol) was added. The reaction mixture was stirred at 0° C. for 40 min. NaBH4 (110 mg, 2.92 mmol) was then added as a solution in 5 mL of water. The reaction mixture was stirred at 0° C. for 30 min and then warmed to room temperature. It was concentrated and then extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford the crude product. Purification by chromatography (Isco, gradient elution, CH2Cl2 to 9:1 CH2Cl2/MeOH) afford 150 mg of (3-nitro-5-thiazolo[5,4-c]pyridin-2-yl-phenyl)-methanol.

reactant | 3-Nitro-5-thiazolo[5,4-c]pyridin-2-yl-benzoic acid | 2.92 mmol, 880 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C=1SC=2C=NC=CC2N1 | C13H7N3O4S
reactant | NMM | 2.92 mmol, 0.32 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.92 mmol, 0.38 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 2.92 mmol, 110 mg | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | (3-nitro-5-thiazolo[5,4-c]pyridin-2-yl-phenyl)-methanol | 150 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C=1SC=2C=NC=CC2N1)CO | C13H9N3O3S
